US07569600B2
A solution of 5-(3-hydroxy-cyclohex-1-enyl)-3-{(trans-4-methyl-cyclohexane-carbonyl)-[trans-4-(tetrahydro-pyran-2-yloxy)-cyclohexyl]-amino}-thiophene-2-carboxylic acid (4 mg, 0.007 mmol) in acetic acid:THF:H2O (4:2:1) (0.7 mL) was stirred at 45° C. for 3.5 h. The mixture was evaporated to dryness and triturated with CHCl3 and hexane yielding 5-(3-hydroxy-cyclohex-1-enyl)-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid (1.6 mg, 47%).

reactant | 5-(3-hydroxy-cyclohex-1-enyl)-3-{(trans-4-methyl-cyclohexane-carbonyl)-[trans-4-(tetrahydro-pyran-2-yloxy)-cyclohexyl]-amino}-thiophene-2-carboxylic acid | 0.007 mmol, 4 mg | OC1C=C(CCC1)C1=CC(=C(S1)C(=O)O)N([C@@H]1CC[C@H](CC1)OC1OCCCC1)C(=O)[C@@H]1CC[C@H](CC1)C | C30H43NO6S
solvent | acetic acid THF H2O | 0.7 mL | C(C)(=O)O.C1CCOC1.O
product | 5-(3-hydroxy-cyclohex-1-enyl)-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid | 1.6 mg, 47% | OC1C=C(CCC1)C1=CC(=C(S1)C(=O)O)N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)O | C25H35NO5S
